US06353017B1
Oxalyl chloride (0.12 mL, 1.39 mmol) is added dropwise to DMF (10 mL), and the resulting solution is cooled to 0° C. After the solution is clear, pyridine (0.22 mL, 2.78 mmol) is added, followed by N-[4-(3-methoxycarbonylphenyl)-1(S)-(aminocarbonyl)butyl]-3-methyl-Nα-(2,2-diphenylacetyl)-L-phenylalaninamide (0.42 g, 0.70 mmol), in one portion. The yellow reaction solution is stirred at 0° C. for 1.5 hours, after which time it is diluted with EtOAc (50 mL), and washed with saturated aqueous NaHCO3 solution (1×50 mL), saturated aqueous LiCl solution (1×50 mL), dried over MgSO4, and evaporated. The residue is chromatographed to yield N-[4-(3-methoxycarbonyl-phenyl)-1(S)-cyanobutyl]-3-methyl-Nα-(2,2-diphenylacetyl)-L-phenylalaninamide, as a yellow solid.

reactant | Oxalyl chloride | 1.39 mmol, 0.12 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | pyridine | 2.78 mmol, 0.22 mL | N1=CC=CC=C1 | C5H5N
reactant | N-[4-(3-methoxycarbonylphenyl)-1(S)-(aminocarbonyl)butyl]-3-methyl-Nα-(2,2-diphenylacetyl)-L-phenylalaninamide | 0.70 mmol, 0.42 g | COC(=O)C=1C=C(C=CC1)CCC[C@@H](C(=O)N)NC([C@@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=CC(=CC=C1)C)=O | C37H39N3O5
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | N-[4-(3-methoxycarbonyl-phenyl)-1(S)-cyanobutyl]-3-methyl-Nα-(2,2-diphenylacetyl)-L-phenylalaninamide | COC(=O)C=1C=C(C=CC1)CCC[C@@H](C#N)NC([C@@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=CC(=CC=C1)C)=O | C37H37N3O4
